US08835689B2
4-oxo-1-phenyl-cyclohexane carbonitrile
5-cyano-2-oxo-5-phenyl cyclohexane carboxylic acid methyl ester (16.1 g, 63 mmol) was dissolved in 10% sulphuric acid (218 mL) and conc. acetic acid (502 mL) and stirred for 21 h at 100° C. For work up the batch was carefully diluted with water (400 mL) with ice cooling, extracted with ethyl acetate (3×100 mL), the organic phase washed thoroughly with water (6×100 mL), saturated NaHCO3 solution (10×100 mL) and saturated NaCl solution (1×100 mL). After drying with Na2SO4 the solvent was distilled off in a vacuum.

reactant | 5-cyano-2-oxo-5-phenyl cyclohexane carboxylic acid methyl ester | 63 mmol, 16.1 g | COC(=O)C1C(CCC(C1)(C1=CC=CC=C1)C#N)=O | C15H15NO3
reactant | acetic acid | 502 mL | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 218 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 400 mL | O | H2O
product | 4-oxo-1-phenyl-cyclohexane carbonitrile | O=C1CCC(CC1)(C#N)C1=CC=CC=C1 | C13H13NO
